US09446130B2
To a solution of 1-methyl-6,7-dihydro-1H-indazol-4(5H)-one (1 g, 6.7 mmol) in EtOH (20 mL) was added NaBH4 (1.2 g, 33.3 mmol) in portions. The resulting mixture was stirred at room temperature for 30 min. The solvent was removed under reduced pressure to afford the crude 1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (700 mg, 68.8%), which was used in the next step directly. MS-ESI (m/z): 153 (M+1)+ (Acq Method: 10-80AB_2 min_220 &254.1 cm; Rt: 0.17 min)

reactant | 1-methyl-6,7-dihydro-1H-indazol-4(5H)-one | 6.7 mmol, 1 g | CN1N=CC=2C(CCCC12)=O | C8H10N2O
reactant | NaBH4 | 33.3 mmol, 1.2 g | [BH4-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 700 mg, 68.8% | CN1N=CC=2C(CCCC12)O | C8H12N2O
